.SUBCKT LTC1443    2    3    4    5    8    9    14
XCOMPA  5  4  2  3  9  14  COMP1443  
 * ADD COMPARATORS 2 to 4  HERE IF REQUIRED
XREF 8  9  REF1443
** nested subcircuit: COMP1443
.SUBCKT COMP1443   1   2   101 200 300 400
*
* input stage
*
CIN 2 1 5.0000e-012
RIN 2 1 1.0000e+009
VOFF 3 1 DC  3.0e-003 
ROFF 3 1 1.0000e+009
IB1 401 1 DC 1.2500e-011
IB2 401 2 DC 7.5000e-012
*
* delay stage
*
G1 401 20 3 2 2.1036e+001
R1 20 401 1.0000e+003
D1P 20 21 DX
D1N 22 20 DX
V1P 21 401 DC 2.5243e+003
V1N 22 401 DC -2.5243e+003
G2 401 23 20 401 1.0000e-003
R2 23 401 1.0000e+003
R21 27 401 4.5283e+002
D2 27 23 DX
CD 23 401 4.7961e-009
*
* common mode stage
*
GCM1 401 19 POLY(2) 1 401 2 401 0 5.0000e-004 5.0000e-004
RCM1 18 401 1.000000e+003
RCM2 19 401 1.0000e+006
LCM 19 18 3.1831e-002
GCM2 401 20 19 401 2.0115e-003
*
* slewrate stage
*
G3 401 24 23 401 1.0000e-003
R3 24 401 1.0000e+003
D3P 24 25 D3P
D3N 26 24 D3N
V3P 25 401 DC 1.5257e+002
V3N 26 401 DC -1.5257e+002
G41 401 30 24 401 1.0000e-003
R41 30 401 1.0000e+003
CR 30 401 3.0163e-008
D4P 30 32 DX
D4N 33 30 DX
E4P 32 401 POLY(1) 200 401  -6.7896e-001 5.0000e-001 
E4N 401 33 POLY(1) 200 401  -6.7896e-001 5.0000e-001 
*
* phase shifter
*
G5 401 40 30 401 1.0000e-003
R5 40 401 1.0000e+003
LA 40 41 1.2732e-005
CA 41 401 7.9577e-011
*
* output stage
*
GO12 401 43 41 401 5.2083e-002
RO12 43 401 1.9200e+001
EOUT1 44 43 33 401 -1.0
VOUT1 101 44 DC 6.749441e-001
ROUT1 101 401 1.0000e+009
*
* supply characteristic
*
*IVDD 200 0 DC 2.0e-006
RVSS 300 0 1.0000e+009
EGND 401 0 400 0 1.0000e+000
RGND 400 0 1.0000e+009
*
FA1 51 0 VOUT1 -1
DAP 200 51 DX
DAN 53 300 DX
RGV 52 53 10
EGV 51 52 POLY(1) 200 300 -0.75 1.0
*
.MODEL DX  D IS=1e-12 RS=0 XTI=0
.MODEL D3P  D IS=1e-12 TT=7.4892e-007 CJO=0.3E-12 RS=0 XTI=0
.MODEL D3N  D IS=1e-12 TT=3.6910e-006 CJO=0.3E-12 RS=0 XTI=0
.MODEL DOUT  D IS=8.0e-7 RS=0 XTI=0.0 N=0.1 EG=0.1
*
.ENDS COMP1443
** end nested subcircuit: COMP1443
** nested subcircuit: REF1443
.SUBCKT REF1443    420 300
*
IREF 300 410 1.1819E-3
RREF 410 300 1.0E3  TC=-4.6E-5
EBGR1 411 300 410 300 1.0
RBGR1 411 412 2.0
VBGR1 412 420 DC 0
RBGR2 420 300 1.0E9
*
* sourcing characteristic
*
FBGR1 300 413 VBGR1 1.0
RBGR3 413 300 1.0E3
DBGR1 413 414 DY
VBGR2 414 300 DC 2.3
FSOURCE 410 300 VBGR2 3.2
*
* sinking characteristic
*
FBGR2 300 415 VBGR1 130
RBGR4 415 300 1.0E3
DBGR2 415 416 DY
RBGR5 416 300  10
DBGR3 417 415 DY
VBGR3 417 300 DC -1.0
FSINK 300 410 POLY(1) VBGR3 0 0 4.2
*
.MODEL DY D IS=8.0000e-016 RS=0 XTI=0 
*
.ENDS REF1443
** end nested subcircuit: REF1443
.ENDS LTC1443
