.SUBCKT LTC1444    2    3    4    5    8    9    14
XCOMPA  5  4  2  3  9  360  COMP1444  
* ADD COMPARATORS 2 to 4  HERE IF REQUIRED
XHYST 14  360  2  3  9  8  HYST1444
XREF 8  9  REF1444
** nested subcircuit: COMP1444
.SUBCKT COMP1444   1   2   101 200  300  360 
*
* input stage
*
CIN 2 1 5.0000e-012
RIN 2 1 1.0000e+009
EOFF 3 1 POLY(1) 360 300 -3.0e-003 1.0
ROFF 3 1 1.0000e+009
IB1 401 1 DC 1.2500e-011
IB2 401 2 DC 7.5000e-012
*
* common mode stage
*
GCM1 401 19 POLY(2) 1 401 2 401 0 5.0000e-004 5.0000e-004
RCM1 18 401 1.000000e+003
RCM2 19 401 1.0000e+006
LCM 19 18 3.1831e-002
GCM2 401 20 19 401 2.0115e-003
*
* delay stage
*
G1 401 20 3 2 2.1036e+001
R1 20 401 1.0000e+003
D1P 20 21 DX
D1N 22 20 DX
V1P 21 401 DC 2.5243e+003
V1N 22 401 DC -2.5243e+003
G2 401 23 20 401 1.0000e-003
R2 23 401 1.0000e+003
R21 27 401 4.5283e+002
D2 27 23 DX
CD 23 401 4.7961e-009
*
G3 401 24 23 401 1.0000e-003
R3 24 401 1.0000e+003
D3P 24 25 D3P
D3N 26 24 D3N
V3P 25 401 DC 1.5257e+002
V3N 26 401 DC -1.5257e+002
G41 401 30 24 401 1.0000e-003
R41 30 401 1.0000e+003
CR 30 401 3.0163e-008
D4P 30 32 DX
D4N 33 30 DX
V4P 32 401 DC 3.3500E-001
V4N 33 401 DC -3.3500E-001
*
* phase shifter
*
G5 401 40 30 401 1.0000e-003
R5 40 401 1.0000e+003
LA 40 41 1.2732e-005
CA 41 401 7.9577e-011
*
* output stage
*
GO 52 50 POLY(1) 401 41 1.0E-3 1.0E-3
RO 50 52 1.0000E+003
MOD 101 50 52 300 MOD L=100U W=100U
RE 52 300 0.1
*
* supply characteristic
*
IVDD 200 300 DC 1.4e-006
EGND 401 0 POLY(2) 200 0 300 0 0 5.0000e-001 5.0000e-001
*
.MODEL DX  D IS=1e-12 RS=0 XTI=0
.MODEL D3P  D IS=1e-12 TT=7.4892e-007 CJO=0.3E-12 RS=0 XTI=0
.MODEL D3N  D IS=1e-12 TT=4.6910e-006 CJO=0.3E-12 RS=0 XTI=0
.MODEL MOD NMOS LEVEL=1 VTO=0.0 KP=2.5E-2 
*
.ENDS COMP1444
** end nested subcircuit: COMP1444
** nested subcircuit: HYST1444
.SUBCKT HYST1444   350 360 101 200 300 420
*
* input 
*
RINH 350 351 200
IHYST 351 0 10.0E-12
DINH1 300 351 DY
DINH2 351 352 DY
EINH 352 300  420 300  1.0
*
* difference and state dependend multiplier
*
GHYST1 353 300 351 300 1.0E-3
GDIFFH 300 353 420 300 1.0E-3
CHYST 353 300 2.2E-8
RHYST1 353 300 1.0E3
*DHYP 353 354 DY
*VHYP 354 300 DC -0.5
*
RNORM1 200 356 1.0E9
RNORM2 300 356 1.0E9
GNORM 300 357 101 356 1.0
CNORM 357 300 2.2E-9
RNORM3  357 300 1.0E3
DNORM1 357 358 DY
VNORM1 358 300 DC 0.075
DNORM2 359 357 DY
VNORM2 359 300 DC -0.075
*
GMULT 300 360 POLY(2) 357 300 353 300 0 0 0 0 1.0E-3
RMULT 360 300 1.0E3
*
.MODEL DY D IS=8.0000e-016 RS=0 XTI=0 
*
.ENDS HYST1444
** end nested subcircuit: HYST1444
** nested subcircuit: REF1444
.SUBCKT REF1444    420 300
*
IREF 300 410 1.221E-3
RREF 410 300 1.0E3  
*
EBGR1 411 300 410 300 1.0
RBGR1 411 412 5.0
VBGR1 412 420 DC 0
RBGR2 420 300 1.0E9
*
* sourcing characteristic
*
FBGR1 300 413 VBGR1 1.0
RBGR3 413 300 1.0E3
DBGR1 413 414 DY
VBGR2 414 300 DC 2.3
FSOURCE 410 300 VBGR2 3.2
*
* sinking characteristic
*
FBGR2 300 415 VBGR1 130
RBGR4 415 300 1.0E3
DBGR2 415 416 DY
RBGR5 416 300  10
DBGR3 417 415 DY
VBGR3 417 300 DC -1.0
FSINK 300 410 POLY(1) VBGR3 0 0 4.2
*
.MODEL DY D IS=8.0000e-016 RS=0 XTI=0 
*
.ENDS REF1444
** end nested subcircuit: REF1444
.ENDS LTC1444
