.SUBCKT LTC1540    1    2    3    4    5    6    7    8
XCOMP  3  4  8  7  2  5  1  6  COMP1540
XREF     6  2  REF1540
** nested subcircuit: COMP1540
.SUBCKT COMP1540   1   2   101 200 300 350 400 420
* input stage
CIN 2 1 5.0000e-012
RIN 2 1 1.0000e+010
ROFF1 301 0 1.0120e+000 TC=-2.4000e-005
ROFF2 302 0 1.0000e+000
IOFF1 0 301 DC 1
IOFF2 0 302 DC 1
EOFF 3 1 POLY(2) 360 300 301 302 0.0 1.0 1.0
ROFF 3 1 1.0000e+009
IBP 303 0 DC 5.3881e-011
RBP 303 0 1E6 TC=2.8374e-001
GBP 1 401 303 0 1e-6
IBN 304 0 DC 3.2329e-011
RBN 304 0 1E6 TC=2.8374e-001
GBN 2 401 304 0 1e-6
* delay stage
G1 401 20 3 2 1.2000e+001
R1 20 401 1.0000e+003
D1P 20 21 DX
D1N 22 20 DX
V1P 21 401 DC 1.2902e+002
V1N 22 401 DC -1.1021e+002
G2 401 23 20 401 1.0000e-003
R2 23 401 1.0000e+003
CD 23 401 1.8000e-012
* common mode stage
GCM1 401 19 POLY(2) 1 401 2 401 0 5.0000e-004 5.0000e-004
RCM1 18 401 1.000000e+003
RCM2 19 401 1.0000e+006
LCM 19 18 3.1831e-002
GCM2 401 20 19 401 1.2012e-003
* slewrate stage
G3 401 24 23 401 1.0000e-003
R3 24 401 1.0000e+003
D3P 24 25 D3P
D3N 26 24 D3N
V3P 25 401 DC 1.2802e+002
V3N 26 401 DC -1.0921e+002
G41 401 30 24 401 1.0000e-003
R41 30 401 1.0000e+003
CR 30 401 1.7526e-007
D4P 30 32 DX
D4N 33 30 DX
E4P 32 401 POLY(1) 200 401 -7.6201e-001 5.0000e-001 
E4N 401 33 POLY(1) 200 401 -7.6201e-001 5.0000e-001 
* phase shifter
G5 401 40 30 401 1.0000e-003
R5 40 401 1.0000e+003
LA 40 41 7.9577e-005
CA 41 401 4.9736e-010
* output stage
GO12 401 43 41 401 5.2083e-002
RO12 43 401 1.9200e+001
EOUT1 44 43 33 401 -1.0
VOUT1 101 44 DC 7.599405e-001
ROUT1 101 401 1.0000e+009
* supply characteristic
IVDD 200 0 DC 1.0000e-007
RVSS 300 0 1.0000e+008
EGND 401 0 400 0 1.0000e+000
RGND 400 0 1.0000e+009
FA1 51 0 VOUT1 -1
DAP 200 51 DX
DAN 53 300 DX
RGV 52 53 10
EGV 51 52 POLY(1) 200 300 -0.65 1.0
*
*   hysteresis control input
*
* input 
RINH 350 351 200
IHYST 351 400 20.0E-12
DINH1 300 351 DY
DINH2 351 352 DY
EINH 352 300  420 300  1.0
* difference and state dependend multiplier
GHYST1 353 300 351 300 1.0E-3
GDIFFH 300 353 420 300 1.0E-3
CHYST 353 300 2.2E-8
RHYST1 353 300 1.0E3
*DHYP 353 354 DY
*VHYP 354 300 DC -0.5
RNORM1 200 356 1.0E9
RNORM2 400 356 1.0E9
GNORM 300 357 101 356 1.0
CNORM 357 300 2.2E-9
RNORM3  357 300 1.0E3
DNORM1 357 358 DY
VNORM1 358 300 DC 0.075
DNORM2 359 357 DY
VNORM2 359 300 DC -0.075
GMULT 300 360 POLY(2) 357 300 353 300 0 0 0 0 1.0E-3
RMULT 360 300 1.0E3
*
.MODEL DX  D IS=1e-12 RS=0 XTI=0
.MODEL DY D IS=8.0000e-016 RS=0 XTI=0 
.MODEL D3P  D IS=1E-12 TT=9.0373E-003 CJO=0.3E-12 RS=0 XTI=0
.MODEL D3N  D IS=1E-12 TT=9.0409E-003 CJO=0.3E-12 RS=0 XTI=0
.MODEL DOUT  D IS=8.0e-7 RS=0 XTI=0.0 N=0.1 EG=0.1
*
.ENDS COMP1540
** end nested subcircuit: COMP1540
** nested subcircuit: REF1540
.SUBCKT REF1540    420 300
*
*   1.182 V bandgap reference
*   with temperature drift
*   referenced to Vss 
*
IREF 300 410 1.1819E-3
RREF 410 300 1.0E3  TC=-4.6E-5
*
EBGR1 411 300 410 300 1.0
RBGR1 411 412 0.5
VBGR1 412 420 DC 0
RBGR2 420 300 1.0E9
* sourcing characteristic
FBGR1 300 413 VBGR1 1.0
RBGR3 413 300 1.0E3
DBGR1 413 414 DY
VBGR2 414 300 DC 1.3
FSOURCE 410 300 VBGR2 3.2
* sinking characteristic
FBGR2 300 415 VBGR1 250
RBGR4 415 300 1.0E3
DBGR2 415 416 DY
RBGR5 416 300  10
DBGR3 417 415 DY
VBGR3 417 300 DC -1.0
FSINK 300 410 POLY(1) VBGR3 0 0 1.2
*
.MODEL DY D IS=8.0000e-016 RS=0 XTI=0 
*
.ENDS REF1540
** end nested subcircuit: REF1540
.ENDS LTC1540
