.SUBCKT LTC1542    1 2 3 4 5 6 7 8
XOP  3 2 8 4 1  LTC1542_OP
XCOMP  5 6 7 8 4  LTC1542_COMP
** nested subcircuit: LTC1542_COMP
.SUBCKT LTC1542_COMP 1 2 101 200 300
*
* input stage
CIN_D 2 1 5.0000e-012
CIN_CM1 1 0 3.5000e-012
CIN_CM2 2 0 3.5000e-012
RIN 2 1 1.1000e+011
ROFF1 301 0 1.0005e+000 TC=6.5000e-006
ROFF2 302 0 1.0000e+000
IOFF1 0 301 DC 1
IOFF2 0 302 DC 1
EOFF 1 3 POLY(3) 301 302 1 0 2 0 0 1.0 1.2559e-004 1.2559e-004
ROFF 3 1 1.0000e+009
IBP 303 0 DC 9.3132e-011
RBP 303 0 1E6 TC=1.6842e-001
GBP 1 0 303 0 1e-6
IBN 304 0 DC 5.7291e-011
RBN 304 0 1E6 TC=1.6842e-001
GBN 2 0 304 0 1e-6
*
* internal hysteresis
ITRIP 300 353 3.0E-6
RTRIP 353 300 1.0E3
RNORM1 200 356 1.0E9
RNORM2 300 356 1.0E9
GNORM 300 357 101 356 1.0
CNORM 357 300 2.2E-11
RNORM3  357 300 1.0E3
DNORM1 357 358 DPC
VNORM1 358 300 DC 0.075
DNORM2 359 357 DPC
VNORM2 359 300 DC -0.075
GMULT 300 360 POLY(2) 357 300 353 300 0 0 0 0 -1.0E-3
RMULT 360 300 1.0E3
EHYST 5 2 360 300 1.0
RHYST 5 2 1.0E9
*
* delay stage
G1 0 20 3 5 1.0000e+001
R1 20 0 1.0000e+003
D1P 20 21 DX
D1N 22 20 DX
V1P 21 0 DC 1.2000e+003
V1N 22 0 DC -1.2000e+003
G2 0 23 20 0 1.0000e-003
R2 23 0 1.0000e+003
CD 23 0 5.3866e-009
*
* slewrate stage
G3 0 24 23 0 1.0000e-003
R3 24 0 1.0000e+003
D3P 24 25 D3P
D3N 26 24 D3N
V3P 25 0 DC 1.6627e+002
V3N 26 0 DC -1.0982e+002
G41 0 30 24 0 1.0000e-003
R41 30 0 1.0000e+003
CR 30 0 8.1016e-008
D4P 30 32 DX
D4N 33 30 DX
E4P 32 0 POLY(1) 200 300 -6.9760e-001 5.0000e-001
E4N 0 33 POLY(1) 200 300 -6.9760e-001 5.0000e-001
*
* phase shifter
G5 0 40 30 0 1.0000e-003
R5 40 0 1.0000e+003
LA 40 41 3.1831e-005
CA 41 0 1.9894e-010
*
* output stage
GO11 401 42 41 0 2.5000e-002
RO11 42 401 4.0000e+001
DO1 42 43 DOUT
GO12 401 43 41 0 1.9994e-002
RO12 43 401 5.0015e+001
VOUT1 101 43 DC -7.397406e-003
ROUT1 101 0 1.0000e+009
*
* supply characteristic
EGND 401 0 POLY(2) 200 0 300 0 0 5.0000e-001 5.0000e-001
IVDD 200 300 DC 2.5000e-006
FA1 51 0 VOUT1 -1
DAP 200 51 DPC
RGV 52 53 9.7531
EGV 51 52 POLY(1) 200 300 -0.8 1.0
DAN 53 300 DPC
*
.MODEL DX D (IS=1e-12 RS=0 XTI=0)
.MODEL DPC D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL D3P D (IS=1e-12 TT=2.5533e-006 CJO=0.3E-12 RS=0 XTI=0)
.MODEL D3N D (IS=1e-12 TT=3.5654e-006 CJO=0.3E-12 RS=0 XTI=0)
.MODEL DOUT D (IS=8.0e-7 RS=0 XTI=0.0 N=0.1 EG=0.1)
*
.ENDS LTC1542_COMP
** end nested subcircuit: LTC1542_COMP
** nested subcircuit: LTC1542_OP
.SUBCKT LTC1542_OP 1 2 3 4 5
*
* input stage
CIN 1 2 3.8021e-012
GRIN 1 2 1 2 1.0000e-010
M1 11 2 10 10 M1 L=100U W=100U
M2 12 111 10 10 M2 L=100U W=100U
RD1 4 11 1.6000e+006 TC=2.0469e-005
RD2 4 12 1.6000e+006 TC=-2.0469e-005
DI1 111 3 DI1
DI2 2 3 DI2
C1 11 12 3.1085e-012
IEE 3 10 DC 1.2500e-006
GA 60 99 11 12 6.2500e-007
*
* common mode rejection
GCM1 99 20 POLY(2) 1 99 2 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 5.3052e-001
ECM 111 1 20 99 3.1623e-006
*
* frequency shaper
RR1 6 60 1.0000e-003
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 1.5625e-010
GB 7 99 6 99 3.9216e+005
R01 7 99 9.9900e+001
R02 7 50 1.0000e-001
R03 50 5 5.0000e+002
R04 5 99 5.9379e+009
VC 53 50 DC 9.5737e-001
VE 54 50 DC -9.3738e-001
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 5.5556e+003
ECLN 92 0 7 50 5.5556e+003
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 9.3945e+000
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 1.2500e-006
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.8 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL M1 PMOS (LEVEL=3 KP=1.3093e-004 VTO=-9.996500e-001 KF=1.2612e-044)
.MODEL M2 PMOS (LEVEL=3 KP=1.3093e-004 VTO=-1.000350e+000 KF=1.2612e-044)
.MODEL DI1 D (IS=1.4726e-011 EG=8.3479e-001 XTI=3.0000e+000)
.MODEL DI2 D (IS=1.0997e-011 EG=8.7734e-001 XTI=3.0000e+000)
.MODEL DRI D (IS=8.2592e-016 KF=1.5623e-017 RS=0 XTI=0)
*
.ENDS LTC1542_OP
** end nested subcircuit: LTC1542_OP
.ENDS LTC1542
